US04105790
A mixture of methyl 4-(aminoacetyl)phenoxyacetate hydrochloride (2.6g.) and trimethyl orthoformate (3.18g.) was stirred at 100° C. for 1 hour under reflux. The volatile reaction products were then allowed to distil off. The yellow residual oil thus obtain crystallised on cooling to give methyl 4-[(N-formyl)aminoacetyl]phenoxyacetate as a solid (2.2g.), m.p. 116° C., after recrystallisation from methanol.

reactant | methyl 4-(aminoacetyl)phenoxyacetate hydrochloride | 2.6g | Cl.NCC(=O)C1=CC=C(OCC(=O)OC)C=C1
reactant | trimethyl orthoformate | 3.18g | C(OC)(OC)OC | C4H10O3
product | methyl 4-[(N-formyl)aminoacetyl]phenoxyacetate | C(=O)NCC(=O)C1=CC=C(OCC(=O)OC)C=C1 | C12H13NO5
